US09447106B2
To a solution of 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carbonitrile (33 mg, 0.1 mmol) in THF (5 mL) was added PPh3 (78.6 mg, 0.25 mmol) and tetrahydro-2H-pyran-4-ol (10 mg, 0.1 mmol). Then, DIAD (51 mg, 0.25 mmol) was added dropwise to the mixture at 0° C. and stirred at 0° C. for 10 min under N2. The mixture was allowed to warm to it and stirred at RT for 16 hr. The mixture was concentrated in vacuum and partitioned between DCM (20 mL) and brine (20 mL). Organic layer was separated from aqueous layers, dried over sodium sulfate and purified by Pre-TLC (DCM/CH3OH=10/1) to afford 5 mg (12%) of 7-(2-aminophenyl)-2-(4-(tetrahydro-2H-pyran-4-yloxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ 7.70 (d, J=8.4 Hz, 2H), 7.66-7.58 (m, 2H), 7.58-7.52 (m, 1H), 7.03 (d, J=8.4 Hz, 2H), 6.97 (t, J=7.6 Hz, 1H), 6.69 (d, J=8.0 Hz, 1H), 6.49 (t, J=7.6 Hz, 1H), 6.23 (d, J=8.0 Hz, 1H), 5.63 (s, 1H), 5.21 (s, 2H), 4.66-4.56 (m, 1H), 3.90-3.79 (m, 2H), 3.54-3.43 (m, 2H), 3.25-3.18 (m, 1H), 2.97-2.86 (m, 1H), 2.21-2.07 (m, 2H), 2.02-1.92 (m, 2H), 1.65-1.50 (m, 2H). MS (ESI) m/e [M+1]+ 415.9.

reactant | 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.1 mmol, 33 mg | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)O | C19H17N5O
reactant | PPh3 | 0.25 mmol, 78.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | tetrahydro-2H-pyran-4-ol | 0.1 mmol, 10 mg | O1CCC(CC1)O | C5H10O2
reactant | DIAD | 0.25 mmol, 51 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(2-aminophenyl)-2-(4-(tetrahydro-2H-pyran-4-yloxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 5 mg, 12% | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2CCOCC2 | C24H25N5O2
